US08044068B2
A mixture of 2,4-dichloro-6-methoxyquinoline (0.228 g), morpholine (262 μL), N,N-diisopropylethylamine (348 μL), and ethylene glycol (4 mL) was heated with microwave (145° C.) for 75 min with stirring. The reaction mixture was cooled to room temperature, followed by addition of water, the mixture was extracted with chloroform and washed with saturated brine, and the organic layer was dried with anhydrous sodium sulfate. The desiccant was removed by filtration, the residue concentrated under reduced pressure was purified by silica gel column chromatography (chloroform/hexane=1/1) to obtain 2-chloro-6-methoxy-4-morpholinoquinoline (0.182 g). (2) To a mixture of 2-chloro-6-methoxy-4-morpholinoquinoline (0.160 g), Pd2(dba)3 (0.026 g), (±)-BINAP (0.054 g), (S)-1-(3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (0.210 g), and 1,4-dioxane (3 mL) was added sodium t-butoxide (0.111 g) under nitrogen atmosphere, and the mixture was stirred at 70° C. for 1.5 h. After cooled to room temperature, the reaction mixture was diluted with ethyl acetate and water, the interlayer was removed by Celite filtration, and the organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol, and NH silica gel, ethyl acetate/hexane) to obtain light yellow amorphous (S)-1-(3-(6-methoxy-4-morpholinoquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.081 g).

reactant | 2,4-dichloro-6-methoxyquinoline | 0.228 g | ClC1=NC2=CC=C(C=C2C(=C1)Cl)OC | C10H7Cl2NO
reactant | morpholine | 262 μL | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 348 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethylene glycol | 4 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 2-chloro-6-methoxy-4-morpholinoquinoline | 0.182 g | ClC1=NC2=CC=C(C=C2C(=C1)N1CCOCC1)OC | C14H15ClN2O2
